2161-12-23 06:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 CARDIAC CATH - At [**2161-12-22**] 09:15 PM
 NASAL SWAB - At [**2161-12-22**] 11:00 PM
 EKG - At [**2161-12-23**] 06:05 AM
   - High anxiety, difficulty sleeping, in tears, has had nausea all night
   without other symptoms - per nursing, she responded better to IV ativan
   than to zofran.  EKG showed small Twave inversions in V3, no other
   changes. Given compazine 6:20am
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Eptifibatide (Integrilin) - 2 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2161-12-23**] 01:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-12-23**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**63**] AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 86 (86 - 103) bpm
   BP: 97/61(68) {88/51(58) - 119/83(90)} mmHg
   RR: 17 (14 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55.3 kg (admission): 55.3 kg
   Height: 63 Inch
             Total In:
                                                                    948 mL
                                                                    609 mL
   PO:
                                                                    150 mL
                                                                    150 mL
   TF:
   IVF:
                                                                    798 mL
                                                                    459 mL
   Blood products:
   Total out:
                                                                    850 mL
                                                                    775 mL
   Urine:
                                                                    650 mL
                                                                    775 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     98 mL
                                                                   -166 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///21/
   Physical Examination
   GENERAL: WDWN in NAD, calm. Oriented x3.
   HEENT: NCAT. Sclera anicteric. mucus membranes mildly dry.
   NECK: Supple with JVP of 8 cm.
   CARDIAC:  Regular Rhythm, Rate 80s, normal S1, S2. No
   murmurs/rubs/gallops appreciated. No thrills, lifts. No S3 or S4.
   LUNGS: Resp unlabored, no accessory muscle use. CTAB, no crackles,
   wheezes or rhonchi
   ABDOMEN: Soft, NTND. No HSM or tenderness.
   EXTREMITIES: No c/c/e. Right sided groin bandage with some blood.
   SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
   PULSES:
   Right: Carotid 2+ DP 2+
   Left: Carotid 2+ DP 2+
   Labs / Radiology
   220 K/uL
   11.3 g/dL
   134 mg/dL
   0.5 mg/dL
   21 mEq/L
   4.1 mEq/L
   14 mg/dL
   104 mEq/L
   137 mEq/L
   34.9 %
   7.8 K/uL
        [image002.jpg]
                             [**2161-12-22**]  11:21 PM
                             [**2161-12-23**]  04:52 AM
   WBC
   7.8
   Hct
   34.9
   Plt
   249
   220
   Cr
   0.5
   TropT
   10.60
   6.29
   Glucose
   134
   Other labs: CK / CKMB / Troponin-T:2705/333/6.29, Ca++:8.5 mg/dL,
   Mg++:2.0 mg/dL
   Assessment and Plan
   47 year old woman with past medical history significant for
   hyperlipidemia, smoking, who presented with STEMI, now s/p PCI with
   stent to OM.
   .
   # Posterior STEMI
   s/p PTCA and DES placed in OM.  ECG this AM with no ST changes.  MB
   peaked in 300s, and enzymes trending down this AM.
   - aspirin, plavix,
   - eftifibatide x 18 hours finishes this afternoon
   - start low dose metoprolol this AM
   - statin
   - Echo to evaluate for new wall motion abnormalities and for MR this AM
   - start low dose ACE inhibitor prior to Discharge if BP tolerates
   .
   # Tobacco Abuse
   Both patient and her husband have significant smoking history and are
   current smokers.
   -          counsel on smoking cessation
   -          Social Work consult
   .
   # Anxiety
   -          continue home dose lorazepam as needed
   -          compazine for nausea/anxiety as needed
   .
   # Hyperlipidemia
   - continue simvastatin
   .
   FEN:  cardiac diet
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with heparin sq
   -Bowel regimen with prn colace and senna
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2161-12-22**] 10:00 PM
   20 Gauge - [**2161-12-22**] 10:00 PM
   Prophylaxis:
   DVT:  subq heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  Full
   Disposition:  callout to floor today

2161-12-24 07:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2161-12-23**] 01:30 PM
 ULTRASOUND - At [**2161-12-23**] 09:30 PM
   - complained of persistent nausea yesterday, EKG without change ;
   nausea responsive to compazine
   - given ativan PO for anxiety
   - c/o of mid lower back pain - hct stable, low suspicison of RP bleed
   so no CT done
   - continued groin bleeding yesterday, hct 36.2 - stable, no hematoma, +
   bruit.
   - R groin u/s - resident read - normal no fistula, pseudoaneurysm,
   other
   - CE downtrending
   - TTE done yesterday
   - Nausea resolved by this AM
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2161-12-23**] 02:00 PM
   Heparin Sodium (Prophylaxis) - [**2161-12-23**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: thirsty
   Ear, Nose, Throat: No(t) Dry mouth
   Flowsheet Data as of  [**2161-12-24**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**63**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.5
C (99.5
   HR: 95 (68 - 110) bpm
   BP: 100/65(73) {85/52(58) - 105/69(78)} mmHg
   RR: 26 (10 - 26) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 55.3 kg (admission): 55.3 kg
   Height: 63 Inch
                  Total In:
                                                                  1,581 mL
                                                                    120 mL
   PO:
                                                                  1,050 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    531 mL
   Blood products:
   Total out:
                                                                  2,925 mL
                                                                    500 mL
   Urine:
                                                                  2,925 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,344 mL
                                                                   -380 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, slightly dry mucus membranes
   Neck:  JVP not elevated
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Diastolic), No
   murmurs, rubs or gallops appreciated
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present), DP pulses 2+ bilaterally, could not appreciate R femoral
   bruit heard yesterday
   Respiratory / Chest: (Breath Sounds: Clear : bilaterally), no crackles,
   rhonchi, or wheezes
   Abdominal: Soft, Non-tender, nondistended
   Extremities: no peripheral edema
   Skin:  Warm, right groin ecchymosis
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): ,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   241 K/uL
   12.4 g/dL
   134 mg/dL
   0.5 mg/dL
   21 mEq/L
   4.1 mEq/L
   14 mg/dL
   104 mEq/L
   137 mEq/L
   37.2 %
   8.1 K/uL
        [image002.jpg]
                             [**2161-12-22**]  11:21 PM
                             [**2161-12-23**]  04:52 AM
                             [**2161-12-23**]  05:00 PM
                             [**2161-12-24**]  05:34 AM
   WBC
   7.8
   8.1
   Hct
   34.9
   36.2
   37.2
   Plt
   249
   220
   241
   Cr
   0.5
   TropT
   10.60
   6.29
   Glucose
   134
   Other labs: CK / CKMB / Troponin-T:1605/125/6.29, Ca++:8.5 mg/dL,
   Mg++:2.0 mg/dL
   Imaging: TTE final read: The left atrium is normal in size. Left
   ventricular wall thicknesses are normal. The left ventricular cavity
   size is normal. There is mild regional left ventricular systolic
   dysfunction with basal to mid inferolateral hypokinesis/akinesis.
   Overall left ventricular systolic function is normal (LVEF>55%). Tissue
   Doppler imaging suggests a normal left ventricular filling pressure
   (PCWP<12mmHg). Right ventricular chamber size and free wall motion are
   normal. The aortic valve leaflets are mildly thickened (?#). There is
   no aortic valve stenosis. No aortic regurgitation is seen. The mitral
   valve leaflets are mildly thickened.
   Compared with the prior study (images reviewed) of [**2161-12-22**], there is
   no definite change although image quality is suboptimal for comparison.
   Assessment and Plan
   47 year old woman with past medical history significant for
   hyperlipidemia, smoking, who presented with STEMI, now s/p PCI with
   stent to OM.
   # Posterior STEMI
   s/p PTCA and DES placed in OM.  Cardiac enzymes continue to trend
   down.  No further chest pain. No shortness of breath.  Finished 18hrs
   eftifibatide yesterday afternoon.  Echo showed mild regional LV
   systolic dysfunction w basal to mid inferolateral hypokinesis/akinesis
   with normal RV wall motion and chamber size.
   - continue aspirin, plavix, low dose metoprolol, statin
   - start low dose ACE inhibitor as outpatient if BP tolerates
   - outpt f/u w Dr. [**Last Name (STitle) 3494**] 2 weeks
   # Hypotension
   Beta blocker held this AM due to hypotension.  Patient w poor PO intake
   - IVF bolus and encourage POs
   # Tobacco Abuse
   Both patient and her husband have significant smoking history and are
   current smokers.
   -          counsel on smoking cessation
   -          Social Work consult
   # Anxiety
   -          continue home dose lorazepam as needed
   -          compazine for nausea/anxiety as needed
   .
   # Hyperlipidemia
   - continue simvastatin
   - fluids IV
   ICU Care
   Nutrition: Cardiac Healthy Diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2161-12-22**] 10:00 PM
   20 Gauge - [**2161-12-22**] 10:00 PM
   Prophylaxis:
   DVT:  subq heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:   FULL
   Disposition:  floor

2161-12-25 06:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   Pt feeling well, but bp in 85-90 systolic range.
   Patient given 1.5L, then another 1L NS boluses.
   Called out to floor, but kept in ICU because continued to be
   hypotensive overnight.
   Pt sleeping, pressure 78/42(58). Given another 500cc bolus.
   BPs in AM still in 70s systolic while sleeping but elevated to 90s
   while awake and alert.
   -          no further nausea over last 24hrs, no complaints of chest
   pain, sob
   -          denies lightheadedness/dizziness w ambulation or standing,
   despite low BPs
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Anaphylaxis;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-12-25**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**63**] AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 80 (80 - 101) bpm
   BP: 85/49(58) {72/42(50) - 101/70(77)} mmHg
   RR: 23 (12 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 55.3 kg (admission): 55.3 kg
   Height: 63 Inch
             Total In:
                                                                  4,460 mL
                                                                    500 mL
   PO:
                                                                  1,960 mL
             TF:
   IVF:
                                                                  2,500 mL
                                                                    500 mL
   Blood products:
   Total out:
                                                                  3,400 mL
                                                                      0 mL
   Urine:
                                                                  3,400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,060 mL
                                                                    500 mL
   Respiratory support
   SpO2: 98%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, moist mucus membranes
   Neck:  JVP not elevated
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Diastolic), No
   murmurs, rubs or gallops appreciated
   Peripheral Vascular:  DP pulses 2+ bilaterally, could not appreciate R
   femoral bruit
   Respiratory / Chest: (Breath Sounds: Clear : bilaterally), no crackles,
   rhonchi, or wheezes
   Abdominal: Soft, Non-tender, nondistended
   Extremities: no peripheral edema
   Skin:  Warm, right groin ecchymosis
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): ,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   FEMORAL VASCULAR US RIGHT
   Study Date of [**2161-12-23**] 9:22 PM
   Preliminary Report
   No evidence of pseudoaneurysm or arteriovenous fistula. No soft tissue
   hematoma at the site of puncture in the right groin.
      196  K/uL
    10.4     10.4g/dL
   91 mg/dL
   0.5 0.5mg/dL
   21 mEq/L
   3.7 mEq/L
   13
   112 mEq/L
   142 mEq/L
   30.3   %
   6.0 6.0K/uL
        [image002.jpg]
                             [**2161-12-22**]  11:21 PM
                             [**2161-12-23**]  04:52 AM
                             [**2161-12-23**]  05:00 PM
                             [**2161-12-24**]  05:34 AM
   WBC
   7.8
   8.1
   Hct
   34.9
   36.2
   37.2
   Plt
   249
   220
   241
   Cr
   0.5
   0.6
   TropT
   10.60
   6.29
   3.19
   Glucose
   134
   105
   Other labs: CK / CKMB / Troponin-T:795/36/3.19, Ca++:8.5 mg/dL,
   Mg++:1.9 mg/dL
   Assessment and Plan
   47 year old woman with past medical history significant for
   hyperlipidemia, smoking, who presented with STEMI, now s/p PCI with
   stent to OM.
   # Hypotension
   Patient with persistent hypotension, particularly while sleeping,
   despite 3L of IVFs in last 24hrs.  Systolic pressures in upper 70s
   while sleeping, increased to 90s while awake.  Did not get all doses of
   metoprolol yesterday due to low blood pressures.  Patient w increased
   po intake in last 24 hrs though still not significant.  Denies symptoms
   of lightheadedness of dizziness while standing or walking.  Ambulated
   well in hallways yesterday.
   - check orthostatic pressures
   # Posterior STEMI
   s/p PTCA and DES placed in OM.  Cardiac enzymes continue to trend
   down.  No further chest pain. No shortness of breath.    Finished 18hrs
   eftifibatide after cath.  Echo showed mild regional LV systolic
   dysfunction w basal to mid inferolateral hypokinesis/akinesis with
   normal RV wall motion and chamber size.
   - continue aspirin, plavix, statin
   - metoprolol if blood pressures can tolerate
   - start low dose ACE inhibitor as outpatient if BP tolerates
   - outpt f/u w Dr. [**Last Name (STitle) 3494**] 2 weeks
   # Tobacco Abuse
   Both patient and her husband have significant smoking history; pt has
   been counseled significantly by CCU staff and housestaff about the
   importance of smoking cessation.
   -          continue to counsel on smoking cessation
   -          Social Work consult
   # Anxiety
   -          continue home dose lorazepam as needed
   # Hyperlipidemia
   - continue simvastatin
   ICU Care
   Nutrition: cardiac diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2161-12-22**] 10:00 PM
   Prophylaxis:
   DVT:  subq heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:   FULL
   Disposition:  floor